US05604227
9-Bromo-2,3-dihydro-7-ethyl-10-hydroxypyridazino[4,5-b]quinoline-1,4-dione
To a mixture of dimethyl 5-bromo-7-ethyl-4-hydroxyquinoline -2,3-dicarboxylate (1.0 g, 2.7 mM,) in ethanol (25 mL) was added hydrazine hydrate (0.68 g, 14 mM). The resulting mixture was concentrated at 30° C. using a rotary evaporator and the residue was diluted with another portion of ethanol (25 mL) and similarly concentrated at 30° C. The residue was suspended in ethanol and filtered to separate the title compound (0.82 g, 82%) as a light yellow solid. Recrystallization of a portion of this material from dimethylsulfoxide/ethanol provided an analytical sample of the title compound as a light yellow crystalline solid, mp 335°-340° C. (dec). Analysis for C13H14BrN5O3 ·0.35 H2O Calculated: C, 41.70; H, 3.95; N, 18.70 Found: C, 41.99; H, 3.84; N, 18.31

reactant | dimethyl 5-bromo-7-ethyl-4-hydroxyquinoline -2,3-dicarboxylate | 2.7 mM, 1.0 g | BrC1=C2C(=C(C(=NC2=CC(=C1)CC)C(=O)OC)C(=O)OC)O | C15H14BrNO5
reactant | hydrazine hydrate | 14 mM, 0.68 g | O.NN
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 9-Bromo-2,3-dihydro-7-ethyl-10-hydroxypyridazino[4,5-b]quinoline-1,4-dione | BrC=1C=2C(=C3C(=NC2C=C(C1)CC)C(NNC3=O)=O)O | C13H10BrN3O3
